US20010027196A1
2-Amino-4-[2-(4-chloro-phenylamino)-ethylamino]-6-furan-2-yl-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile, N-(p-chlorophenyl)ethylenediamine maleate and DBU in DME. ES-MS m/e (%): 357 (M{37Cl}+H+, 40), 355 (M{35Cl}+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)C | C10H8N4O2S
reactant | N-(p-chlorophenyl)ethylenediamine maleate | C(\C=C/C(=O)O)(=O)O.ClC1=CC=C(C=C1)NCCN
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-[2-(4-chloro-phenylamino)-ethylamino]-6-furan-2-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)NCCNC1=CC=C(C=C1)Cl)C#N)C=1OC=CC1 | C17H15ClN6O
